US07615642B2
1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxamide
Following the same procedure in Example 24, Step A, using DIPEA (105 uL, 78 mg, 0.60 mmol), 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (0.20 mmol), HATU (114 mg, 0.30 mmol) and saturated ammonia in DMF (5 mL). The crude product was purified by MPLC using CH2Cl2/MeOH (20:1) on silica gel to give 17 mg (18%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.78 (t, J=7.52 Hz, 3 H), 1.41-1.57 (m, 4 H), 1.59 (s, 6 H), 1.95 (q, J=7.42 Hz, 2 H), 2.20-2.37 (m, 1 H), 3.22-3.38 (m, 2 H), 3.90 (dd, J=11.82, 3.22 Hz, 2 H), 4.42 (d, J=7.42 Hz, 2 H), 7.94 (d, J=8.8 Hz, 1 H), 8.01 (dd, J=8.8, 1.8 Hz, 1 H), 8.05 (s, 1 H), 8.36 (d, J=1.56 Hz, 1 H), 8.79 (d, J=0.59 Hz, 1 H); MS (ESI) (M+H)+=460.3.

reactant | DIPEA | 0.60 mmol, 105 uL, 78 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.20 mmol | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C22H28N4O5S
reactant | HATU | 0.30 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonia | N | H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxamide | 17 mg, 18% | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)N | C22H29N5O4S
